US05827881
A! Thionyl chloride (22.5 ml, 0.31 mole) was dropped at 0° C. in absolute ethanol (300 ml). At the end of the addition, 6-bromohexanoic acid (30 g, 0.153 mole) was added in small portions, then the mixture was stirred for 5 hours at room temperature and evaporated to dryness while taking it up in ethanol 2 times. The ethyl 6-bromohexanoate thus obtained was used as such in the next step.

reactant | Thionyl chloride | 0.31 mole, 22.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6-bromohexanoic acid | 0.153 mole, 30 g | BrCCCCCC(=O)O | C6H11BrO2
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | ethyl 6-bromohexanoate | BrCCCCCC(=O)OCC | C8H15BrO2
